US05470845
A. Bromo(4-propylphenyl)magnesium
A solution of 30.80 mL (0.20 mol) of 1-bromo-4-propylbenzene in 50 mL dry THF was added to 9.60 g (0.40 mol) of magnesium turnings in 200 mL THF at a rate to maintain low reflux. After the addition was complete, the reaction was heated to 55° C. for one hour. The THF solution was transferred via cannula to a sure-seal bottle and sealed for storage. Titration of 3.00 mL of the title Grignard reagent with 1N isopropanol in toluene against 2,2'-biquinoline as an indicator required volumes of 5.4 and 5.3 mL, indicating the concentration to be 1.74N.

reactant | 1-bromo-4-propylbenzene | 0.20 mol, 30.80 mL | BrC1=CC=C(C=C1)CCC | C9H11Br
reactant | magnesium | 0.40 mol, 9.60 g | [Mg] | Mg
reactant | isopropanol | 1N | C(C)(C)O | C3H8O
reactant | 2,2'-biquinoline | N1=C(C=CC2=CC=CC=C12)C1=NC2=CC=CC=C2C=C1 | C18H12N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Bromo(4-propylphenyl)magnesium | Br[Mg]C1=CC=C(C=C1)CCC | InChI=1S/C9H11.BrH.Mg/c1-2-6-9-7-4-3-5-8-9;;/h4-5,7-8H,2,6H2,1H3;1H;/q;;+1/p-1
